US08648208B2
(1) Methyl 3-[4-[3-[3-ethyl-6-(trifluoromethyl)benzothiophen-2-yl]propenoyl]-2-methylphenyl]acrylate
The titled compound was prepared from 3-ethyl-6-(trifluoromethyl)benzothiophen-2-carboxaldehyde [WO 2005077926] (185 mg, 0.716 mmol) and methyl 3-(4-acetyl-2-methylphenyl)acrylate (156 mg, 0.715 mmol) in a procedure similar to that of Example 7 (1) as a yellow crystal (186 mg, yield 57%).

reactant | 3-ethyl-6-(trifluoromethyl)benzothiophen-2-carboxaldehyde | 0.716 mmol, 185 mg | C(C)C1=C(SC2=C1C=CC(=C2)C(F)(F)F)C=O | C12H9F3OS
reactant | methyl 3-(4-acetyl-2-methylphenyl)acrylate | 0.715 mmol, 156 mg | C(C)(=O)C1=CC(=C(C=C1)C=CC(=O)OC)C | C13H14O3
product | Methyl 3-[4-[3-[3-ethyl-6-(trifluoromethyl)benzothiophen-2-yl]propenoyl]-2-methylphenyl]acrylate | C(C)C1=C(SC2=C1C=CC(=C2)C(F)(F)F)C=CC(=O)C2=CC(=C(C=C2)C=CC(=O)OC)C | C25H21F3O3S
